US04075225
6,11-Dihydro-11-oxo-pyrrolo[2,1-b][3]benzazepine-2-carboxylic acid (24 g., 99 mmoles) in 100 ml. of thionyl chloride was refluxed for 15 minutes. The volatiles were removed under vacuum and the residue was triturated in ether. Filtration and air-drying yielded 2-chlorocarbonyl-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepin-11-one (23 g., 89%), m.p. 147°-148.5.

reactant | 6,11-Dihydro-11-oxo-pyrrolo[2,1-b][3]benzazepine-2-carboxylic acid | 99 mmoles, 24 g | O=C1C=2N(CCC3=C1C=CC=C3)C=C(C2)C(=O)O | C14H11NO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-chlorocarbonyl-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepin-11-one | 23 g, 89% | ClC(=O)C=1C=C2C(C3=C(CCN2C1)C=CC=C3)=O | C14H10ClNO2
